US09145380B2
2-[[(E)-2-[4-(2-Furyl)phenyl]ethenyl]sulfonylamino]benzenesulfonamide
2-Aminobenzenesulfonamide (61 mg, 0.35 mmol) was dissolved in pyridine (2.5 mL) and (E)-2-[4-(2-furyl)phenyl]ethenesulfonyl chloride) (see General procedure for synthesis of styrenyl sulfonyl chlorides) (95 mg, 0.35 mmol) was added. The reaction was stirred at RT overnight. The solvent was removed, the residue was partitioned between water and ethyl acetate, made acidic (HCl) and the mixture was extracted twice with ethyl acetate. The combined organic phases were washed with water, treated with brine, dried (MgSO4), and evaporated to give the title compound (140 mg, 98%).

reactant | 2-Aminobenzenesulfonamide | 0.35 mmol, 61 mg | NC1=C(C=CC=C1)S(=O)(=O)N | C6H8N2O2S
reactant | (E)-2-[4-(2-furyl)phenyl]ethenesulfonyl chloride | O1C(=CC=C1)C1=CC=C(C=C1)/C=C/S(=O)(=O)Cl | C12H9ClO3S
solvent | pyridine | 2.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-[[(E)-2-[4-(2-Furyl)phenyl]ethenyl]sulfonylamino]benzenesulfonamide | 140 mg, 98% | O1C(=CC=C1)C1=CC=C(C=C1)/C=C/S(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C18H16N2O5S2
